US09108939B2
A mixture of tert-butyl 4-(2,5-difluoro-4-nitrobenzylidene)piperidine-1-carboxylate (4.52 mmol, 1.6 g) and palladium on carbon (10%) (0.135 mmol, 0.144 g) in ethyl acetate was hydrogenated at 3 bar until the desired amount of hydrogen was consumed. The reaction was filtered through celite and concentrated under reduced pressure to give the intermediate tert-butyl 4-(4-amino-2,5-difluorobenzyl)piperidine-1-carboxylate.

reactant | tert-butyl 4-(2,5-difluoro-4-nitrobenzylidene)piperidine-1-carboxylate | 4.52 mmol, 1.6 g | FC1=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C(C(=C1)[N+](=O)[O-])F | C17H20F2N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.135 mmol, 0.144 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(4-amino-2,5-difluorobenzyl)piperidine-1-carboxylate | NC1=CC(=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=C1F)F | C17H24F2N2O2
